US07678825B2
A mixture of 4-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-3oxobutyl]isoindoline-1,3-dione (0.9 g, 2.34 mmol) and chloroacetyl chloride (0.29 g, 2.57 mmol) in tetrahydrofuran (20 mL) was heated to reflux for 10 minutes. The mixture was concentrated in vacuo to give 2-chloro-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]-1,3-dioxoisoindolin-4-yl}acetamide (1.07 g, 100%); 1H NMR (CDCl3) δ 10.56 (s, 1H), 8.71 (d, J=8.4 Hz, 1H), 7.66 (t, J=7.6 Hz, 1H), 7.53 (d, J=7.3 Hz, 1H), 7.09-7.05 (m, 2H), 6.82 (d, J=8.0 Hz, 1H), 5.75-5.69 (dd, J=5.3 and 9.8 Hz, 1H), 4.22 (s, 2H), 4.12 (q, J=7.1 Hz, 2H), 4.04-3.93 (m, 1H), 3.83 (s, 3H), 3.31-3.21 (dd, J=5.2 and 18.0 Hz, 1H), 2.18 (s, 3H), 1.45 (t, J=7.0 Hz, 3H).

reactant | 4-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-3oxobutyl]isoindoline-1,3-dione | 2.34 mmol, 0.9 g | NC1=C2C(N(C(C2=CC=C1)=O)C(CC(C)=O)C1=CC(=C(C=C1)OC)OCC)=O | C21H22N2O5
reactant | chloroacetyl chloride | 2.57 mmol, 0.29 g | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-chloro-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]-1,3-dioxoisoindolin-4-yl}acetamide | 1.07 g, 100% | ClCC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(C)=O)C1=CC(=C(C=C1)OC)OCC)=O | C23H23ClN2O6
